US03933853
1-(4-methoxyphenyl)-3-(2-hydroxypropyl)indole (code number 5992).
5.6 G (0.02 mole) of 1-(4-methoxyphenyl)-3-(2-oxopropyl)indole, prepared as described in example 1 but using 4-methoxyiodobenzene instead of iodobenzene are dissolved in 50 ml of anhydrous ethanol in a 200 ml autoclave. 2 g of Raney nickel are added. The autoclave is brought to a pressure of 50 kg of hydrogen and heat is applied at 100° for 8 hours at this pressure. The reaction medium is taken to dryness and the residue dissolved in normal acetic acid in the presence of diethyl ether. The organic phase is dried and the solvents are removed. The residue is then distilled.

reactant | 1-(4-methoxyphenyl)-3-(2-oxopropyl)indole | 0.02 mole | COC1=CC=C(C=C1)N1C=C(C2=CC=CC=C12)CC(C)=O | C18H17NO2
reactant | 4-methoxyiodobenzene | COC1=CC=C(C=C1)I | C7H7IO
reactant | hydrogen | 50 kg | [H][H] | H2
solvent | ethanol | 50 ml | C(C)O | C2H6O
catalyst | Raney nickel | 2 g | [Ni] | Ni
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | diethyl ether | C(C)OCC | C4H10O
product | 1-(4-methoxyphenyl)-3-(2-hydroxypropyl)indole | COC1=CC=C(C=C1)N1C=C(C2=CC=CC=C12)CC(C)O | C18H19NO2
